US07226923B2
7-Amino-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one
2.00 g of 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one were hydrogenated over palladium on charcoal in methanol/THF 1:1 at room temperature. After completion of the reaction the catalyst was filtered off and the filtrate evaporated. The residue was dissolved in 50 ml dichloromethane and extracted three times with a 3:1 mixture of water/conc. HCl. The combined aqueous phases were brought to pH 8 by addition of sodium bicarbonate and extracted with dichloromethane. Removal of the solvent yielded 1.25 g of the title product.

reactant | 7-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | 2.00 g | [N+](=O)([O-])C1=CC=C2C(=NN(C(C2=C1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30N6O3
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol THF | CO.C1CCOC1
product | 7-Amino-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | 1.25 g | NC1=CC=C2C(=NN(C(C2=C1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H32N6O
